US08071807B2
{3-[4-Nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester (0.20 g, 0.35 mmol), trimethylboroxine (0.07 mL, 0.53 mmol), potassium carbonate (0.123 g, 0.89 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.041 g, 0.035 mmol) were combined in DME:H2O (2:1; 4 mL) and degassed with N2 for 8 minutes. The reaction was stirred at 90° C. for 2 hours, and then worked up with EtOAc and 10% aqueous HCl. The residue was purified by silica gel chromatography to give {4-methyl-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester.

reactant | {3-[4-Nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester | 0.35 mmol, 0.20 g | COC(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H15F6NO8S2
reactant | trimethylboroxine | 0.53 mmol, 0.07 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.89 mmol, 0.123 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME H2O | 4 mL | COCCOC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.035 mmol, 0.041 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {4-methyl-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H18F3NO5S
